US05342984
To a 500 ml glass flask equipped with a stirring machine, a thermometer, a reflux condenser and a dropping funnel, there were added 91.8 g (1.2 mole) of allyl chloride and 0.03 g of palladium acetate, the temperature of the mixture was raised up to 40 to 45° C., then 136.3 g (1.0 mole) of dimethylphenylsilane was dropwise added to the mixture over 3 hours through the dropping funnel to carry out the reaction of the allyl chloride and the dimethylphenylsilane and the reaction mixture was aged at 50° C. for 3 hours. The reaction solution obtained after the aging was distilled to give a distillate having a boiling point range of from 80 to 84° C./16 mmHg. Thus, 163.9 g of dimethylphenylchlorosilane having a purity of 99.9% was obtained. The yield of the product was found to be 96.0%.

reactant | allyl chloride | 1.2 mole, 91.8 g | C(C=C)Cl | C3H5Cl
reactant | dimethylphenylsilane | 1.0 mole, 136.3 g | C[SiH](C1=CC=CC=C1)C | C8H12Si
catalyst | palladium acetate | 0.03 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | dimethylphenylchlorosilane | 163.9 g | C[Si](Cl)(C1=CC=CC=C1)C | C8H11ClSi
